US05693320
2-acetyl-5-methacrylamidosalicylic acid and hydroquinone (0.5% by weight) were dissolved in an aqueous solution of excess sodium hydrogencarbonate. The solution was stirred at temperatures of 40° C. to 50° C. The solvent was removed under acidic conditions. The remaining powder was recrystallized by a mixture of water and ethanol to give sodium 2-acetyl-5-methacrylamidosalicylate.

reactant | 2-acetyl-5-methacrylamidosalicylic acid | C(C)(=O)C1(C(C(=O)O)C=C(C=C1)NC(C(=C)C)=O)O | C13H15NO5
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | sodium 2-acetyl-5-methacrylamidosalicylate | C(C)(=O)C1(C(C(=O)[O-])C=C(C=C1)NC(C(=C)C)=O)O.[Na+] | InChI=1S/C13H15NO5.Na/c1-7(2)11(16)14-9-4-5-13(19,8(3)15)10(6-9)12(17)18;/h4-6,10,19H,1H2,2-3H3,(H,14,16)(H,17,18);/q;+1/p-1
